datasets/10k_Mayr_OG.csv
SMILES Labelled
"CN(C)[C:34]1=[CH:33][CH:32]=[C:31]([C+:20]2[C:41]3=[C:42]([CH:43]=[CH:44][CH:45]=[CH:46]3)[C:52]3=[C:51]2[CH:56]=[CH:55][CH:54]=[CH:53]3)[CH:36]=[CH:35]1.Cl[Zn-:11](Cl)[CH:10]1[CH:61]=[CH:62][C:72]2=[C:71]1[CH:76]=[CH:75][CH:74]=[CH:73]2>>CN(C)[C:34]1=[CH:33][CH:32]=[C:31]([C:20]2([CH:10]3[CH:61]=[CH:62][C:72]4=[C:71]3[CH:76]=[CH:75][CH:74]=[CH:73]4)[C:41]3=[C:42]([CH:43]=[CH:44][CH:45]=[CH:46]3)[C:52]3=[C:51]2[CH:56]=[CH:55][CH:54]=[CH:53]3)[CH:36]=[CH:35]1.Cl[Zn:11]Cl 10,11=10,20"
"C1C[C:61](=[O:62])[N:10]=[C:11]1[O-:12].Cl[B-:33](Cl)(Cl)[O+:21]=[CH:20][C:41]1=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]1>>Cl[B-:33](Cl)(Cl)[O:21][CH:20]([N:10]1[C:11](=[O:12])CC[C:61]1=[O:62])[C:41]1=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]1 10,11=10,20;12=11,12;20,21=21"
"C1=CC=C([N:10]=C2CCCCC2)C=C1.CO[C:54]1=[CH:53][CH:52]=[C:51]([CH:20]=[C:21]2[S:32](=[O:33])(=[O:34])C3=C(C=CC=C3)[S:42]2(=[O:43])=[O:44])[CH:55]=[CH:56]1>>CO[C:54]1=[CH:53][CH:52]=[C:51]([CH:20]([N+:10](C2=CC=CC=C2)=C2CCCCC2)[C-:21]2[S:32](=[O:33])(=[O:34])C3=C(C=CC=C3)[S:42]2(=[O:43])=[O:44])[CH:55]=[CH:56]1 10=20;20,21=21"
"COC1=CC=[N+](C/[C:21](=[CH:20]\[C:31]2=[CH:32][CH:33]=[C:34](OC)[CH:44]=[CH:43]2)[C:22](C)=[O:23])C=C1.C[Sn:63](C)(C)[CH2:62][CH:11]([H:10])[C:71]1=[CH:72][CH:73]=[C:74](C)[CH:83]=[CH:82]1>>COC1=CC=[N+](C[C:21]([CH:20]([H:10])[C:31]2=[CH:32][CH:33]=[C:34](OC)[CH:44]=[CH:43]2)=[C:22](C)[O-:23])C=C1.C[Sn:63](C)(C)[CH2:62][CH+:11][C:71]1=[CH:72][CH:73]=[C:74](C)[CH:83]=[CH:82]1 10,11=10,20;20,21=21,22;22,23=23"
"C[Si:63](C)(C)[CH:62]1CC[CH:10]=[CH:11]1.O=C([O-])C1CC2=C(C=CC=C2)/[N+:23]1=[CH:22]/[CH:21]=[CH:20]/[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1>>C[Si:63](C)(C)[CH:62]1CC[CH:10]([CH:20]([CH:21]=[CH:22][N:23]2C3=C(C=CC=C3)CC2C(=O)[O-])[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[CH+:11]1 10,11=10,20;20,21=21,22;22,23=23"
"Cl[C:20]1=[C:21](Cl)[C:22](=[O:23])[C:32](=[O:33])[C:31](Cl)=[C:30]1Cl.[CH-:10]([N+:61]#[N:62])[C:71]1=[CH:72][CH:73]=[C:74]([C:75]#[N:76])[CH:83]=[CH:82]1>>Cl[C:20]1([CH:10]([N+:61]#[N:62])[C:71]2=[CH:72][CH:73]=[C:74]([C:75]#[N:76])[CH:83]=[CH:82]2)[C:21](Cl)=[C:22]([O-:23])[C:32](=[O:33])[C:31](Cl)=[C:30]1Cl 10=20;20,21=21,22;22,23=23"
"C1=CC=C(/[CH:10]=[C:11](/C2=CC=CC=C2)[O-:12])C=C1.CO[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]=[C:21]2[C:22](=[O:23])[O:39]C(C)(C)[O:33][C:31]2=[O:32])[CH:46]=[CH:45]1>>CO[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]([CH:10](C2=CC=CC=C2)[C:11](C2=CC=CC=C2)=[O:12])[C:21]2=[C:22]([O-:23])[O:39]C(C)(C)[O:33][C:31]2=[O:32])[CH:46]=[CH:45]1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
C1C[CH:32]=[CH:31][C+:20]1[C:41]1=[CH:42][CH:43]=[CH:44][CH:53]=[CH:52]1.O=[N+]([O-])C1=CC=C([C:61]([O-:10])=[O:62])C=C1>>O=[N+]([O-])C1=CC=C([C:61]([O:10][C:20]2([C:41]3=[CH:42][CH:43]=[CH:44][CH:53]=[CH:52]3)CC[CH:32]=[CH:31]2)=[O:62])C=C1 10=20
"C[Si](C)(C)[Si:63]([Si](C)(C)C)([Si](C)(C)C)[O:12][CH:11]=[CH2:10].F[C:34]1=[CH:33][CH:32]=[C:31]([C+:20]([C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1>>C[Si](C)(C)[Si:63]([Si](C)(C)C)([Si](C)(C)C)[O+:12]=[CH:11][CH2:10][C:20]([C:31]1=[CH:32][CH:33]=[C:34](F)[CH:35]=[CH:36]1)([C:41]1=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]1)[C:51]1=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]1 10,11=10,20;12=11,12"
"C[C:11](=[CH2:10])[C:62]1=[CH:63][CH:64]=[CH:65][CH:74]=[CH:73]1.[C+:20]1([C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[C:41]2=[C:42]([CH:43]=[CH:44][CH:45]=[CH:46]2)[C:52]2=[C:51]1[CH:56]=[CH:55][CH:54]=[CH:53]2>>C[C+:11]([CH2:10][C:20]1([C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[C:41]2=[C:42]([CH:43]=[CH:44][CH:45]=[CH:46]2)[C:52]2=[C:51]1[CH:56]=[CH:55][CH:54]=[CH:53]2)[C:62]1=[CH:63][CH:64]=[CH:65][CH:74]=[CH:73]1 10,11=10,20"
"C1=CC=C([N+:61]2=[C-:10][N:71](C3=CC=CC=C3)[C:63](C3=CC=CC=C3)=[N:62]2)C=C1.CC[O:50][C:22](/[CH:21]=[CH:20]/[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)=[O:23]>>CC[O:50][C:22](=[CH:21][CH:20]([C:10]1=[N+:61](C2=CC=CC=C2)[N:62]=[C:63](C2=CC=CC=C2)[N:71]1C1=CC=CC=C1)[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)[O-:23] 10=20;20,21=21,22;22,23=23"
"C1=CC=C(N(C2=CC=CC=C2)[C:34]2=[CH:33][CH:32]=[C:31]([CH+:20][C:41]3=[CH:42][CH:43]=[C:44](N(C4=CC=CC=C4)C4=CC=CC=C4)[CH:45]=[CH:46]3)[CH:36]=[CH:35]2)C=C1.C[Si](C)(C)[Si:63]([Si](C)(C)C)([Si](C)(C)C)[O:12][C:11]1=[CH:10]CCCC1>>C[Si](C)(C)[Si:63]([Si](C)(C)C)([Si](C)(C)C)[O+:12]=[C:11]1CCCC[CH:10]1[CH:20]([C:31]1=[CH:32][CH:33]=[C:34](N(C2=CC=CC=C2)C2=CC=CC=C2)[CH:35]=[CH:36]1)[C:41]1=[CH:42][CH:43]=[C:44](N(C2=CC=CC=C2)C2=CC=CC=C2)[CH:45]=[CH:46]1 10,11=10,20;12=11,12"
C12C3C4C5C1[Fe:32]23451678C2C1C6[C:31]7([CH+:20][C:41]13C4C5C6C1[Fe:42]5643179%10C3C1C7C9C3%10)C28.[N-:10]1[C:61](=[O:62])[NH:84][C:73](=[O:74])[CH:72]=[CH:71]1>>C12C3C4C5C1[Fe:32]23451678C2C1C6[C:31]7([CH:20]([N:10]1[C:61](=[O:62])[NH:84][C:73](=[O:74])[CH:72]=[CH:71]1)[C:41]13C4C5C6C1[Fe:42]5643179%10C3C1C7C9C3%10)C28 10=20
